US05594021
2-ethyl-5-methylbenzo[b]thiophene-3-sulfonylchloride was prepared in the same manner as described in Example 40B. Reaction of DMF (6.5 mmoles, 0.50 ml), sulfurylchloride (5.5 mmoles, 0.44 ml) and 2-ethyl-5-methylbenzo[b]thiophene (3.2 mmoles, 0.57 g) yielded, after flash chromatography, using 2% ethyl acetate/hexanes, 0.58 g (66%) of an orange solid.

reactant | DMF | 6.5 mmoles, 0.50 ml | CN(C)C=O | C3H7NO
reactant | sulfurylchloride | 5.5 mmoles, 0.44 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-ethyl-5-methylbenzo[b]thiophene | 3.2 mmoles, 0.57 g | C(C)C1=CC2=C(S1)C=CC(=C2)C | C11H12S
product | 2-ethyl-5-methylbenzo[b]thiophene-3-sulfonylchloride | C(C)C1=C(C2=C(S1)C=CC(=C2)C)S(=O)(=O)Cl | C11H11ClO2S2
